US08703758B2
A) tert-butyl [(1S)-1-methyl-2-{[1-(5-propoxy-1,3-benzoxazol-2-yl)piperidin-4-yl]oxy}ethyl]carbamate
By a method similar to Example 6, step A, and using tert-butyl [(1S)-2-{[1-(5-hydroxy-1,3-benzoxazol-2-yl)piperidin-4-yl]oxy}-1-methylethyl]carbamate (412 mg) and 1-bromopropane (0.282 mL), the title compound (367 mg) was obtained.

reactant | tert-butyl [(1S)-2-{[1-(5-hydroxy-1,3-benzoxazol-2-yl)piperidin-4-yl]oxy}-1-methylethyl]carbamate | 412 mg | OC=1C=CC2=C(N=C(O2)N2CCC(CC2)OC[C@H](C)NC(OC(C)(C)C)=O)C1 | C20H29N3O5
reactant | 1-bromopropane | 0.282 mL | BrCCC | C3H7Br
product | tert-butyl [(1S)-1-methyl-2-{[1-(5-propoxy-1,3-benzoxazol-2-yl)piperidin-4-yl]oxy}ethyl]carbamate | 367 mg | C[C@@H](COC1CCN(CC1)C=1OC2=C(N1)C=C(C=C2)OCCC)NC(OC(C)(C)C)=O | C23H35N3O5
